Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Dilaudid / morphine / Phenergan / latex
 
Attending: ___
 
Chief Complaint:
abd hematoma, post op anemia
 
Major Surgical or Invasive Procedure:
Laparoscopic exploration with evacuation of hemoperitoneum. 
right port exploration, evacuation, and closure.

 
History of Present Illness:
Ms. ___ is a ___ year old G2P2 with a h/o fibroids s/p
total laparoscopic hysterectomy, LEFT salpingo-oophorectomy, 
right salpingewctomy, lysis of adhesions, enterolysis on ___ 
at ___
who was overall doing well post-operatively, aside from nausea
and vomiting. On post-operative day 0 to 1, she had a fit of
retching, and her right port site incision "popped," and started
bleeding. A CBC checked on post-op day 1 revealed a hematocrit 
of
27, from a pre-operative level of 40. This was not consistent
with the expected blood loss, which was 100cc. Her pain was
overall within normal limits.

Her hematocrit was repeated in the afternoon on ___ and was 22.
A CT scan was performed which showed a large 10x11cm
sub-cutaneous hematoma near the right lower quadrant port site.
She subsequently received 3 units pRBCs, which resultant
hematocrit on ___ AM 25.2. A repeat later on the day of 
admission
was 23.8. Given that the Hct was was not rising appropriately
with blood transfusion and a repeat CT scan showed a hematoma
slightly enlarged in size, decision made for transfer to ___
ICU.  

The original case itself was notable for multiple adhesions,
however it was otherwise uncomplicated.

 
Past Medical History:
OBHx: C/S x 2
PMH: thyroid cancer, hypertension, hypothyroidism, migraines, 
Menorrhagia, Adenomyosis
PSH: C/S x 2, Thyroid cancer s/p thyroidectomy and RAI ___, now 
hypothyroidism, breast reduction, arthroscopic knee surgery

 
Social History:
___
Family History:
The patient has 16 maternal relatives of her grandmother's 
generation and older with breast cancer.
 
Physical Exam:
admission Exam: T 98.7, HR 90, BP 138/107
Gen: NAD
CV: RRR
Lungs: CTAB
Abd: soft, no rebound/guarding. TTP in right lower quadrant.
There is a possibel collection under the right lower quadrant
port size which is tender. The port site itself is intact. The
other port sites are intact and soft without erythema or
induration.

Discharge physical exam
Vitals: VSS
Gen: NAD, A&O x 3
CV: RRR
Resp: no acute respiratory distress
Abd: soft, appropriately tender, no rebound/guarding, incision 
c/d/i
Ext: no TTP
 
Pertinent Results:
___ 06:26AM BLOOD WBC-7.3 RBC-2.65* Hgb-8.3* Hct-23.3* 
MCV-88 MCH-31.2 MCHC-35.4* RDW-13.8 Plt ___
___ 05:53PM BLOOD WBC-10.1 RBC-2.73* Hgb-8.4* Hct-23.4* 
MCV-86 MCH-30.6 MCHC-35.7* RDW-13.6 Plt ___
___ 09:00AM BLOOD WBC-9.8 RBC-3.08* Hgb-9.5* Hct-26.5* 
MCV-86 MCH-30.9 MCHC-35.9* RDW-13.5 Plt ___
___ 02:30AM BLOOD WBC-8.5 RBC-2.68* Hgb-8.4* Hct-23.3* 
MCV-87 MCH-31.2 MCHC-35.9* RDW-13.3 Plt ___
___ 01:15AM BLOOD ___ PTT-26.5 ___
___ 01:15AM BLOOD Glucose-94 UreaN-7 Creat-0.7 Na-139 K-3.6 
Cl-107 HCO3-26 AnGap-10
 
Brief Hospital Course:
FICU COURSE ___ - ___:
================
Patient is a ___ G2P2 F with a history of uterine fibroids and 
papillary thyroid carcinoma s/p total thyroidectomy  POD ___ s/p 
uncomplicated total laparoscopic hysterectomy and RSO with 
extnesive LOA for adenomyosis on ___ who presented with 
acute blood loss anemia with findings of R port site 
subcutaneous hematoma and hemoperitoneum. The patient 
experienced severe nausea and vomiting with dilaudid PCA and 
reported feeling a 'pop' at her RLQ incision during her bouts of 
emesis, followed by visible bleeding at RLQ incision.  Serial CT 
imaging x2 at ___ revealed stable free fluid in abdomen, 
expanding SQ hematoma form RLQ port site.  The patient was 
transferred to the GYN team at ___ and taken to the OR 
overnight where these findings were confirmed.  The patient had 
a laparoscopic exploration with evacuation of the subcutaneous 
hematoma and hemoperitoneum.  There was no active bleeding from 
the hysterectomy pedicles, there was no visible evidence of an 
inferior epigastric vessel injury.  The RLQ incision was 
extended, explored,e vacuated, and closed in layers.  Of note, 
the patient was transferred from the ___ ICU so patient had 
been transferred to the FICU for admission and post-surgical 
monitoring.  H/H was monitored and her post-op FICU course was 
uncomplicated.  HCT on admission was 23, post-op HCT remained at 
23.  There was no blood loss from the re-operation itself.

She was transferred to the floor (gynecology service) from the 
___ on post operative day 0 in stable condition after 
undergoing laparoscopic exploration with evacuation of 
hemoperitoneum, right port exploration, evacuation, and closure. 
Please see the operative report for full details.

On post-operative day 0, her urine output was adequate so her 
foley was removed and she voided spontaneously. She had mild 
nausea that was controlled on zofran. Her diet was advanced 
without difficulty and she was transitioned to PO 
percocet/ibuprofen. She remained hemodynamically stable with HCT 
___ and did not have symptomatic anemia and was started on 
iron supplementation. She continued her home levothyroxine. Her 
blood pressure medication was restarted post op day 2 with 
control of her blood pressures. She had a headache that resolved 
with antihypertensives and pain medication. 

By post-operative day 2, she was tolerating a regular diet, 
voiding spontaneously, ambulating independently, and pain was 
controlled with oral medications. She was then discharged home 
in stable condition with outpatient follow-up scheduled.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Levothyroxine Sodium 150 mcg PO DAILY 
2. Amlodipine 5 mg PO DAILY 
3. losartan-hydrochlorothiazide 50-12.5 mg oral DAILY 
4. Sumatriptan Succinate 100 mg PO DAILY:PRN headache 
5. Magnesium Oxide 400 mg PO DAILY 
6. Cyanocobalamin 1000 mcg PO DAILY 

 
Discharge Medications:
1. Levothyroxine Sodium 150 mcg PO DAILY 
2. Amlodipine 5 mg PO DAILY 
3. Cyanocobalamin 1000 mcg PO DAILY 
4. losartan-hydrochlorothiazide 50-12.5 mg oral DAILY 
5. Magnesium Oxide 400 mg PO DAILY 
6. Sumatriptan Succinate 100 mg PO DAILY:PRN headache 
7. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
do not drink alcohol or drive 
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*40 Tablet Refills:*0
8. Ibuprofen 600 mg PO Q6H:PRN pain 
take with food 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every six (6) hours 
Disp #*50 Tablet Refills:*1
9. Acetaminophen ___ mg PO Q6H:PRN pain 
not to exceed 4 gram in 24 hours 
RX *acetaminophen 500 mg ___ tablet(s) by mouth every six (6) 
hours Disp #*50 Tablet Refills:*1
10. Ferrous Sulfate 325 mg PO BID 
take colace if constipated 
RX *ferrous sulfate 325 mg (65 mg iron) 1 tablet(s) by mouth 
twice a day Disp #*60 Tablet Refills:*2
11. Docusate Sodium 100 mg PO BID constipation 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*1

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
right port site hematoma, hemoperitoneum

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the gynecology service after your 
procedure. You have recovered well and the team believes you are 
ready to be discharged home. Please call Dr. ___ office with 
any questions or concerns. Please follow the instructions below.

General instructions:
* Take your medications as prescribed.
* Do not drive while taking narcotics.
* Take a stool softener such as colace while taking narcotics to 
prevent constipation.
* Do not combine narcotic and sedative medications or alcohol.
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.
* No strenuous activity until your post-op appointment.
* Nothing in the vagina (no tampons, no douching, no sex) for 3 
months.
* No heavy lifting of objects >10 lbs for 6 weeks.
* You may eat a regular diet.
* You may walk up and down stairs.

Incision care:
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No tub baths for 6 weeks.
* If you have steri-strips, leave them on. They will fall off on 
their own or be removed during your followup visit.
* If you have staples, they will be removed at your follow-up 
visit.

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.

 
Followup Instructions:
___